US08304557B2
N-(3-{[1-(2-amino-2-oxoethyl)-6-{[(4-methylphenyl)sulfonyl]imino}-1,6-dihydropyridin-3-yl]oxy}phenyl)-6-methylpyridine-2-carboxamide
A mixture of 6-methyl-N-{3-[(6-{[(4-methylphenyl)sulfonyl]amino}pyridin-3-yl)oxy]phenyl}pyridine-2-carboxamide (14.8 g, 31.2 mmol), N,N-diisopropylethylamine (7.10 mL, 40.7 mmol) and N,N-dimethylformamide (100 mL) was stirred at room temperature for 20 min. After stirring, iodoacetamide (7.51 g, 40.6 mmol) was added, and the mixture was stirred at room temperature for 16 hr. The reaction mixture was diluted with aqueous sodium hydrogen carbonate solution and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (0%→100% ethyl acetate-hexane→10% methanol-ethyl acetate) to give the title compound (14.6 g, 88%) as a pale-yellow oil.

reactant | 6-methyl-N-{3-[(6-{[(4-methylphenyl)sulfonyl]amino}pyridin-3-yl)oxy]phenyl}pyridine-2-carboxamide | 31.2 mmol, 14.8 g | CC1=CC=CC(=N1)C(=O)NC1=CC(=CC=C1)OC=1C=NC(=CC1)NS(=O)(=O)C1=CC=C(C=C1)C | C25H22N4O4S
reactant | N,N-diisopropylethylamine | 40.7 mmol, 7.10 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
reactant | iodoacetamide | 40.6 mmol, 7.51 g | ICC(=O)N | C2H4INO
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | N-(3-{[1-(2-amino-2-oxoethyl)-6-{[(4-methylphenyl)sulfonyl]imino}-1,6-dihydropyridin-3-yl]oxy}phenyl)-6-methylpyridine-2-carboxamide | 14.6 g, 88% | NC(CN1C=C(C=CC1=NS(=O)(=O)C1=CC=C(C=C1)C)OC=1C=C(C=CC1)NC(=O)C1=NC(=CC=C1)C)=O | C27H25N5O5S
